US06897224B2
1-(2-Acetylaminoquinolin-5-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol
Analogously to Example 20, 263 mg (0.86 mmol) of 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 205 mg (1.0 mmol) of 2-acetylamino-5-aminoquinoline are reacted to form 197 mg of product.

reactant | 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 0.86 mmol, 263 mg | FC=1C=CC(=C(C1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16F4O3
reactant | 2-acetylamino-5-aminoquinoline | 1.0 mmol, 205 mg | C(C)(=O)NC1=NC2=CC=CC(=C2C=C1)N | C11H11N3O
product | 1-(2-Acetylaminoquinolin-5-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 197 mg | C(C)(=O)NC1=NC2=CC=CC(=C2C=C1)NCC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)C(F)(F)F | C25H27F4N3O3
